US08791123B2
Step B: Preparation of (R)-5-(2-(5-fluoro-2-methylpyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid
To a solution of (R)-ethyl 5-(2-(5-fluoro-2-methylpyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (480 mg, 1.3 mmol) in a 1:1:1 mixture of THF:MeOH:water (30 mL) was added lithium hydroxide monohydrate (164 mg, 3.9 mmol). The mixture was stirred at ambient temperature for 16 hours then concentrated to ⅓ volume, acidified to pH 3 with 1N HCl and extracted with EtOAc (3×30 mL). The combined organic phases were washed with brine (20 mL), dried over Na2SO4, filtered and concentrated to afford the title product as a white solid (381 mg, 86% yield). MS (apci) m/z=342.0 (M+H).

reactant | (R)-ethyl 5-(2-(5-fluoro-2-methylpyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 1.3 mmol, 480 mg | FC=1C=C(C(=NC1)C)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H20FN5O2
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide monohydrate | 3.9 mmol, 164 mg | O.[OH-].[Li+]
solvent | water | 30 mL | O | H2O
product | (R)-5-(2-(5-fluoro-2-methylpyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 381 mg, 86% yield | FC=1C=C(C(=NC1)C)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O2
